US04432979
2.5 ml of bromine are added to a solution of 1-methyl-5-(2-pyrazinyl)-2-pyridone (3.5 g) in glacial acetic acid (150 ml). The reaction mixture is filtered and the filtered solid washed with glacial acetic acid. The filtrate is evaporated in vacuum and the oily residue treated with aqueous sodium bisulfate. The filtered solid is suspended in 250 ml of distilled H2O to which has been added 7 g of sodium bisulfate. A solution of saturated potassium carbonate is added to the suspension to bring the pH back to 6.4. The resulting solid is filtered, washed with H2O and air dried. The same sodium bisulfate procedure is followed with the oily residue obtained from the evaporated filtrate. The solids are combined, recrystallized from isopropanol with decolorizing charcoal added and filtered off hot. The recrystallized solid is suspended in 50 ml of H2O containing 10 g of sodium bisulfate and stirred overnight. The suspended solid is filtered and washed with distilled H2O, recrystallized from isopropanol, filtered, washed with ether and air dried, resulting in the desired 3-bromo-1-methyl-5-(2-pyrazinyl)-2-pyridone, M.P. 196°-197° C.

reactant | bromine | 2.5 ml | BrBr | Br2
reactant | 1-methyl-5-(2-pyrazinyl)-2-pyridone | 3.5 g | CN1C(C=CC(=C1)C1=NC=CN=C1)=O | C10H9N3O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-1-methyl-5-(2-pyrazinyl)-2-pyridone | BrC=1C(N(C=C(C1)C1=NC=CN=C1)C)=O | C10H8BrN3O
